US07547690B2
Neat LAH (0.4 g, 10.54 mmol) was added in small portions to a stirred solution of 9-benzyl-3,9-diazabicyclo[4.2.1]nonan-4-one (1.2 g, 5.21 mmol) in THF (40 ml) and the mixture was stirred under nitrogen overnight. Reaction mixture was cooled in ace bath and quenched by consecutive addition of water (0.4 ml), 15% NaOH (1.2 ml) and water (0.4 ml) and then stirred for 30 min. Precipitated sodium aluminate was filtered off and the filtrate was dried over MgSO4, filtered and evaporated to dryness to afford 9-benzyl-3,9-diazabicyclo[4.2.1]nonane as a light yellow oil. LC/MS: m/e 217 (MH+).

reactant | LAH | 10.54 mmol, 0.4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 9-benzyl-3,9-diazabicyclo[4.2.1]nonan-4-one | 5.21 mmol, 1.2 g | C(C1=CC=CC=C1)N1C2CNC(CC1CC2)=O | C14H18N2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 9-benzyl-3,9-diazabicyclo[4.2.1]nonane | C(C1=CC=CC=C1)N1C2CNCCC1CC2 | C14H20N2
